US04383945
To a solution of a mixture (5:1) of methyl 2-[(3S,4R)-3-{(1RS)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (755 mg) and 4-dimethylaminopyridine (440 mg) in dichloromethane (6 ml) was added dropwise a solution of p-nitrobenzyl chloroformate (660 mg) in dichloromethane (4 ml) during three minutes period at 0° C. After 1.5 hours, the solution was concentrated, taken up into ethyl acetate (40 ml), and washed with dilute hydrochloric acid, water and brine. The organic layer was dried over magnesium sulfate and evaporated to leave an oil. Chromatography on silica gel (50 g) eluting with 2-10% ethyl acetate in dichloromethane to give methyl 3-methyl-2-[(3S,4R)-4-methylthio-3-{(1R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]but-2-enoate (974 mg).

reactant | methyl 2-[(3S,4R)-3-{(1RS)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 755 mg | OC(C)[C@H]1C(N([C@@H]1SC)C(C(=O)OC)=C(C)C)=O | C12H19NO4S
reactant | p-nitrobenzyl chloroformate | 660 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
catalyst | 4-dimethylaminopyridine | 440 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | methyl 3-methyl-2-[(3S,4R)-4-methylthio-3-{(1R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]but-2-enoate | 974 mg | CC(=C(C(=O)OC)N1C([C@@H]([C@H]1SC)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C20H24N2O8S
